US05547949
Preparation of 4-chloro-2,6-bis(2,2-dimethylpropylamino)pyrimidine
After adding 5 ml of 1-amino-2,2-dimethylpropane to a solution of 5.0 g of 4,6-dichloro-2-(2,2-dimethylpropylamino)pyrimidine in 25 ml of isopropanol the reaction mixture is boiled under reflux for 20 hours, then evaporated. The residue is distributed between 80 ml of chloroform and 15 ml of 10% sodium hydroxide solution. After separation the organic phase is washed 4 times with 20 ml of water each, then dried and evaporated. After recrystallization from hexane the title compound is obtained in a yield of 2.994 g (49.4%), m.p.:95°-98° C.

reactant | 1-amino-2,2-dimethylpropane | 5 ml | NCC(C)(C)C | C5H13N
reactant | 4,6-dichloro-2-(2,2-dimethylpropylamino)pyrimidine | 5.0 g | ClC1=NC(=NC(=C1)Cl)NCC(C)(C)C | C9H13Cl2N3
solvent | isopropanol | 25 ml | C(C)(C)O | C3H8O
product | 4-chloro-2,6-bis(2,2-dimethylpropylamino)pyrimidine | ClC1=NC(=NC(=C1)NCC(C)(C)C)NCC(C)(C)C | C14H25ClN4
